US07960369B2
4-[[methyl(4-phenyl-2-thiazolyl)amino]methyl]benzaldehyde
To a solution of 4-[[methyl(4-phenyl-2-thiazolyl)amino]methyl]benzenemethanol (1.0 g, 3.2 mmol) in ethyl acetate (40 mL) was added manganese dioxide (4.0 g), and the mixture was stirred at room temperature for 3 hrs. Insoluble material was filtered off, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5:1) to give the title compound (0.80 g, yield 81%). oil.

reactant | 4-[[methyl(4-phenyl-2-thiazolyl)amino]methyl]benzenemethanol | 3.2 mmol, 1.0 g | CN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(C=C1)CO | C18H18N2OS
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 4.0 g | [O-2].[O-2].[Mn+4]
product | 4-[[methyl(4-phenyl-2-thiazolyl)amino]methyl]benzaldehyde | 0.80 g, yield 81% | CN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(C=O)C=C1 | C18H16N2OS
